US07381719B2
1-(4-Methoxy-benzyl)-piperidine-3-carboxylic acid methoxy-methyl-amide
Combine 1-(4-Methoxy-benzyl)-piperidine-3-carboxylic acid ethyl ester (9.3 g, 33.5 mmol), THF (200 mL), N,O-Dimethylhydroxylamine hydrochloride (4.9 g, 50.3 mmol) at −10° C. (Acetone/ice bath) under a Nitrogen atmosphere. By dropwise addition, add Isopropylmagnesium chloride (50.3 mL, 100.6 mmol). Stir the reaction for 6 hours allowing the reaction mixture to warm to room temperature. Quench the reaction mixture with sat NH4Cl (aq) and extract product from the water using Ethyl acetate. Wash the organic layer with brine and then dry over Na2SO4. Concentrate under reduced pressure and flash chromatograph using 1:1 Hexanes:Ethyl acetate and then 1:1 Hexanes:Ethyl acetate with 3% 1N NH3MeOH to give 9.13 g (93% yield) of the title compound: 1H NMR (500 MHz, CDCl3); 1.4-1.7 (3H, m), 1.8 (1H, d), 1.9 (1H, t), 2.1 (1H, t), 2.8-3.0 (3H, m), 3.1 (3H, s), 3.5 (2H, d), 3.6 (3H, s), 3.8 (3H, s), 6.8 (2H, d), 7.2 (2H, d); MS m/z 293 (M+1).

reactant | 1-(4-Methoxy-benzyl)-piperidine-3-carboxylic acid ethyl ester | 33.5 mmol, 9.3 g | C(C)OC(=O)C1CN(CCC1)CC1=CC=C(C=C1)OC | C16H23NO3
reactant | THF | 200 mL | C1CCOC1 | C4H8O
reactant | N,O-Dimethylhydroxylamine hydrochloride | 50.3 mmol, 4.9 g | Cl.CNOC
reactant | Isopropylmagnesium chloride | 100.6 mmol, 50.3 mL | C(C)(C)[Mg]Cl
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(4-Methoxy-benzyl)-piperidine-3-carboxylic acid methoxy-methyl-amide | 9.13 g, 93% yield | CON(C(=O)C1CN(CCC1)CC1=CC=C(C=C1)OC)C | C16H24N2O3
